US08877744B2
To a solution of (R)-ethyl 2-(4-amino-4-(5-bromo-2-fluorophenyl)-3,3-difluoro-2-methylpentan-2-yloxy)acetate (intermediate B5.1) (6.85 g, 16.6 mmol) in toluene (205 ml) at 23° C. was added dropwise trimethylaluminum (2 M in toluene, 10.8 ml, 21.6 mmol) and the light yellow solution was stirred at 23° C. for 2 h. Poured into a saturated solution of sodium hydrogencarbonate, extracted with ethyl acetate, washed organic layer with brine, dried over sodium sulphate, filtered off and evaporated totally. Dried at high vacuum to give the (R)-5-(5-bromo-2-fluorophenyl)-6,6-difluoro-5,7,7-trimethyl-1,4-oxazepan-3-one (5.95 g, 16.2 mmol, 97.8% yield) as a light yellow solid, which was used without further purification. MS: m/z=366.2 [(M+H)+] and 368.1 [(M+2+H)+].

reactant | (R)-ethyl 2-(4-amino-4-(5-bromo-2-fluorophenyl)-3,3-difluoro-2-methylpentan-2-yloxy)acetate | 16.6 mmol, 6.85 g | N[C@](C(C(C)(OCC(=O)OCC)C)(F)F)(C)C1=C(C=CC(=C1)Br)F | C16H21BrF3NO3
reactant | trimethylaluminum | 21.6 mmol, 2 M, 10.8 ml | C[Al](C)C
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | toluene | 205 ml | C1(=CC=CC=C1)C | C7H8
product | (R)-5-(5-bromo-2-fluorophenyl)-6,6-difluoro-5,7,7-trimethyl-1,4-oxazepan-3-one | 16.2 mmol, 5.95 g, 97.8% yield | BrC=1C=CC(=C(C1)[C@]1(NC(COC(C1(F)F)(C)C)=O)C)F | C14H15BrF3NO2
